* \\vmware-host\Shared Folders\arimura\Dropbox\_j_Ohmsha_VacuumTubeBook\LTspice\Appendix\Circuit_6AS5.asc
V1 N001 0 0
V2 N002 0 {VG}
XU1 N001 N002 0 6AS5
.step param VG -5 0 0.5
.dc V1 0 30 0.1
.lib MyTubeModel\6AS5.sub
.backanno
.end
