.SUBCKT 12AU7EH 1 2 3; P G K
+ PARAMS:
+ kG=421.4019150640017 ; from model fit
+ mu=23.19799380494047 ; from model fit
+ exponent=0.6182272739923143 ; from model fit
+ kp=80.4232365428759 ; from model fit
+ kvb=199.9995454857264 ; from model fit
+ kvb2=-2.9753066646848225 ; from model fit
+ ect=-0.42796653917821814 ; from model fit
+ CGA=1.5p CGK=1.6p CAK=0.4p ; from datasheet
+ RGI=2000

* Plate Current
E1  7 0 VALUE=
+ {V(1,3)/kp*LOG(1+EXP(kp*(1/mu+(V(2,3)+ect)/SQRT(kvb+V(1,3)*V(1,3)+kvb2*V(1,3)))))}
RE1 7 0 1G
G1  1 3 VALUE={PWR(URAMP(V(7)),exponent)/kG}
RCP 1 3 1G
D3  5 3 DX    ; for Grid Current
R2  2 5 {RGI} ; for Grid Current
* CAPS
CGK 2 3 {CGK} ; Cathode-Grid
CGA 2 1 {CGA} ; Grid-Anode(Plate)
CAK 1 3 {CAK} ; Anode(Plate)-Cathode
* REGS
RF1 1 0 1G
RF2 2 0 1G
RF3 3 0 1G
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N) ; diode for grid current
.ENDS
